US05158949
To a solution of 5-(4-chlorophenyl)pent-1-ene (43.2 g) in dichloromethane (400 mL) was added dropwise with stirring a mixture of 40% peracetic acid (200 mL) and sodium acetate (6.5 g). The resulting mixture was heated under reflux for 2 hours, cooled, and stirred with water (400 mL). The dichloromethane layer was separated, washed with dilute aqueous potassium carbonate until neutral, water, and dried (MgSO4) and evaporated to give 46.7 g of 5-(4-chlorophenyl)-1,2-epoxypentane as a colorless oil.

reactant | 5-(4-chlorophenyl)pent-1-ene | 43.2 g | ClC1=CC=C(C=C1)CCCC=C | C11H13Cl
reactant | peracetic acid | 200 mL | C(C)(=O)OO | C2H4O3
reactant | sodium acetate | 6.5 g | C(C)(=O)[O-].[Na+]
reactant | water | 400 mL | O | H2O
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | 5-(4-chlorophenyl)-1,2-epoxypentane | 46.7 g | ClC1=CC=C(C=C1)CCCC1CO1 | C11H13ClO
